US07582760B2
To a suspension of sodium perborate tetrahydrate (135.374 g., 886.4 mmol) in 500 mL acetic acid at 55° C. was added dropwise a solution of 2-bromo-6-fluoro-phenylamine (33.685 g., 177.271 mmol) in 70 mL acetic acid over 1 hour. The reaction mixture was stirred at 55° C. for an additional 3 hours, then cooled to 0° C. in an ice bath. Insoluble materials were removed by filtration through a plug of celite, which was rinsed with 100 mL acetic acid. The combined acetic acid fractions were added to 3 L ice water with stirring to give a waxy solid which was removed by filtration. The crude solid was dissolved in 250 mL ethyl acetate, washed three times with 200 mL of 10% aqueous hydrogen chloride, 200 mL saturated sodium bicarbonate and 100 mL brine. The solution was concentrated in vacuo to give 11.51 g of 1-bromo-3-fluoro-2-nitro-benzene as a red oil,

reactant | sodium perborate tetrahydrate | 886.4 mmol, 135.374 g | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | 2-bromo-6-fluoro-phenylamine | 177.271 mmol, 33.685 g | BrC1=C(C(=CC=C1)F)N | C6H5BrFN
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
product | 1-bromo-3-fluoro-2-nitro-benzene | 11.51 g | BrC1=C(C(=CC=C1)F)[N+](=O)[O-] | C6H3BrFNO2
